US04595678
6,7,8-Triacetoxy-1-bromomethyl-3-oxo-2-oxa-4-azabicyclo[3.3.1]nonane (as described in Example 1 of the Japanese Patent Application No. 144309/1981, pp. 37) (800 mg) is dissolved in toluene (50 ml), and tri-n-butyltin hydride (1 ml) and α,α'-azo-bis-isobutyronitrile (100 mg) are added to the solution, followed by reflux with stirring for 1 hour. The reaction mixture is concentrated under reduced pressure, and petroleum ether is added to the residue, which is allowed to stand overnight in a refrigerator. The resulting precipitates are recovered by filtration, dried and chromatographed on a column of silica gel (180 ml), followed by elution with ethyl acetate. The eluate is concentrated under reduced pressure, and ethyl ether-petroleum ether (1:1) is added to the residue, which is allowed to stand overnight in a refrigerator to produce crystalline 6,7,8-triacetoxy-1-methyl-3-oxo-2-oxa-4-azabicyclo[3.3.1]nonane (510 mg).

reactant | 6,7,8-Triacetoxy-1-bromomethyl-3-oxo-2-oxa-4-azabicyclo[3.3.1]nonane | C(C)(=O)OC1C2NC(OC(C(C1OC(C)=O)OC(C)=O)(C2)CBr)=O | C14H18BrNO8
reactant | tri-n-butyltin hydride | 1 ml | C(CCC)[SnH](CCCC)CCCC
reactant | α,α'-azo-bis-isobutyronitrile | 100 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 6,7,8-triacetoxy-1-methyl-3-oxo-2-oxa-4-azabicyclo[3.3.1]nonane | 510 mg | C(C)(=O)OC1C2NC(OC(C(C1OC(C)=O)OC(C)=O)(C2)C)=O | C14H19NO8
